US07396960B2
Synthesis of 4-vinyloxyethoxyphenyldiphenylsulfonium perfluorobutanesulfonate salt
4-Hydroxyphenyldiphenylsulfonium perfluorobutanesulfonate salt (52.2 g), potassium carbonate (18.0 g), and N,N,N′,N′-tetramethylethylenediamine (1.05 g) were dissolved in dimethyl sulfoxide (26.1 g). Chloroethyl vinyl ether (13.9 g) was added to the solution, followed by heating to 80° C. The reaction mixture was stirred for 15 hours and cooled to 30° C. or lower. After removal of solid through filtration, water (100 g) was added to the filtrate, and the aqueous layer was washed three times with hexane (100 g). To the washed aqueous layer, dichloromethane (209 g) and water (260 g) were added under stirring, whereby the target substance was extracted to the dichloromethane layer. The organic layer was repeatedly washed with distilled water until the pH of the separated aqueous layer was shifted to 7. The solvent was removed by means of a rotary evaporator, to thereby yield 69.9 g of an oily substance. Through 1H-NMR and ion chromatography, the substance was identified to be 4-vinyloxyethoxyphenyldiphenylsulfonium perfluorobutanesulfonate salt.

reactant | 4-Hydroxyphenyldiphenylsulfonium perfluorobutanesulfonate salt | 52.2 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 18.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N,N′,N′-tetramethylethylenediamine | 1.05 g | CN(CCN(C)C)C | C6H16N2
reactant | Chloroethyl vinyl ether | 13.9 g | C(=C)OCCCl | C4H7ClO
solvent | dimethyl sulfoxide | 26.1 g | CS(=O)C | C2H6OS
product | 4-vinyloxyethoxyphenyldiphenylsulfonium perfluorobutanesulfonate salt | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.C(=C)OCCOC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H21O2S.C4HF9O3S/c1-2-23-17-18-24-19-13-15-22(16-14-19)25(20-9-5-3-6-10-20)21-11-7-4-8-12-21;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h2-16H,1,17-18H2;(H,14,15,16)/q+1;/p-1
